US04684642
(a) DL-2-[2-Oxo-3-methylsulphonylimidazolidin-1-ylcarbonylamino]-2-(thiazol-4-yl)acetic acid
DL-2-Amino-2-(thiazol-4-yl)acetic acid (214 mg) [prepared by the method described in J. Med. Chem. 16, 978 (1973)] was taken up in water (10 ml) and the pH was adjusted to 6.5 by the addition of 2N sodium hydroxide solution. 2-Oxo-3-methylsulphonylimidazolidin-1-ylcarbonyl chloride (310 mg) was added to the stirred solution at room temperature in portions; the pH being maintained between 6.0 and 7.0 by the addition of 2N sodium hydroxide solution. When the addition was complete, the mixture was stirred for one hour, filtered, and the filtrate was washed with ethyl acetate (2×20 ml), acidified to pH 1.0, and extracted with ethyl acetate (2×20 ml). The combined extracts were washed with saturated sodium chloride solution (20 ml), dried (MgSO4), filtered and evaporated to dryness in vacuo. The residue was triturated with methylene chloride and the solid product was separated by filtration to give the title compound as a white solid, (250 mg).

reactant | 2-Amino-2-(thiazol-4-yl)acetic acid | 214 mg | NC(C(=O)O)C=1N=CSC1 | C5H6N2O2S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | 2-Oxo-3-methylsulphonylimidazolidin-1-ylcarbonyl chloride | 310 mg | O=C1N(CCN1S(=O)(=O)C)C(=O)Cl | C5H7ClN2O4S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 2-[2-Oxo-3-methylsulphonylimidazolidin-1-ylcarbonylamino]-2-(thiazol-4-yl)acetic acid | 250 mg | O=C1N(CCN1S(=O)(=O)C)C(=O)NC(C(=O)O)C=1N=CSC1 | C10H12N4O6S2
